US07314888B1
To a solution of 8.0 g of 3-(3-ethoxy-3-oxopropyl)-4-isobutoxybenzoic acid in 80 ml of tetrahydrofuran are dropwise added 3.6 ml of oxalyl chloride and 60 μl of N,N-dimethylformamide successively, and the mixture thus obtained is stirred at ambient temperature for one hour. Then, to the reaction mixture obtained herein is dropwise added, at −70° C., a pyrrole reagent prepared from 8.5 ml of pyrrole and 82 ml of 1 mol/L solution of methylmagnesium bromide in tetrahydrofuran. After dropping, the temperature is elevated to ambient temperature over a period of one hour, and the mixture is stirred at ambient temperature for one hour. The reaction mixture is cooled with ice water, a saturated aqueous solution of ammonium chloride is dropwise added, the mixture thus obtained is stirred at ambient temperature for 15 minutes, ethyl acetate is added, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to obtain 5.0 g of ethyl 3-[2-isobutoxy-5-(1H-pyrrol-2-ylcarbonyl)phenyl]-propanoate as a brown-colored solid product.

reactant | 3-(3-ethoxy-3-oxopropyl)-4-isobutoxybenzoic acid | 8.0 g | C(C)OC(CCC=1C=C(C(=O)O)C=CC1OCC(C)C)=O | C16H22O5
reactant | oxalyl chloride | 3.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyrrole | N1C=CC=C1 | C4H5N
reactant | pyrrole | 8.5 ml | N1C=CC=C1 | C4H5N
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 60 μl | CN(C=O)C | C3H7NO
product | ethyl 3-[2-isobutoxy-5-(1H-pyrrol-2-ylcarbonyl)phenyl]-propanoate | 5.0 g | C(C(C)C)OC1=C(C=C(C=C1)C(=O)C=1NC=CC1)CCC(=O)OCC | C20H25NO4
